### PR TITLE
Add scopes to Lambda's substitution list

### PR DESCRIPTION
**Pull request by shigoel**
*Description of changes:*

A `Subst` is now a stack of scopes, which allows us to throw away transient type variables when they go out of scope during Boogie program type inference.

As a result, Boogie type inference is ~34X faster on some benchmarks.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/LTyUnify.lean [hunk 1]
```diff
@@ -67,60 +71,51 @@ variables of the values.
 def SubstWF (S : Subst) : Bool :=
   S.keys.all (fun k => k ∉ Subst.freeVars S)
 
+@[simp]
+theorem SubstWF_of_empty : SubstWF [] := by
```
Comment (atomb) [inline Strata/DL/Lambda/LTyUnify.lean]: I think it'd keep things a little more abstract to use `Maps.empty` here instead of `[]`.

File: Strata/DL/Lambda/LTyUnify.lean [hunk 2]
```diff
@@ -67,60 +71,51 @@ variables of the values.
...
+  simp [SubstWF]
+
+theorem SubstWF_of_empty_empty : SubstWF [[]] := by
```
Comment (atomb) [inline Strata/DL/Lambda/LTyUnify.lean]: I'm not sure what it should be named, but I'd love a named definition instead of `[[]]` here.

File: Strata/DL/Lambda/LTyUnify.lean [hunk 3]
```diff
@@ -292,121 +299,149 @@ theorem LMonoTy.freeVars_of_subst_subset (S : Subst) (mty : LMonoTy) :
...
-      exact fun _ x => h2 (h1 x)
     | inr h_tail =>
-      have : freeVars newS ++ freeVars tail ⊆ freeVars newS ++ freeVars (head :: tail) := by
-        simp_all
-      simp [Subst.apply_eq_applyLogic] at tail_ih
-      exact List.Subset.trans (tail_ih newS mty h_tail) this
-  done
+      have : freeVars [newS] ++ freeVars S ⊆ freeVars [newS] ++ freeVars (s :: S) := by
+        simp [freeVars, Maps.values]
+      exact List.Subset.trans (S_ih newS mty h_tail) this
```
Comment (atomb) [inline Strata/DL/Lambda/LTyUnify.lean:440]: Is there a theorem about `Subst` that you could use here instead of a `List` theorem? It could be just an alias for the moment, but it'd clarify the abstraction boundary.

File: Strata/DL/Lambda/LTyUnify.lean [hunk 4]
```diff
@@ -417,32 +452,48 @@ theorem SubstWF.apply_one_substituted_type (S : SubstInfo) (id : TyIdentifier) (
...
+    simp at h1
+    apply @h1 i hi
   have h_i_not_in_S_values : i ∉ S.subst.freeVars := by
     have h := S.isWF
-    simp [SubstWF] at h; simp_all
+    simp [SubstWF] at h
+    apply @h i hi
   have h_i_not_in_union : i ∉ new_ty.freeVars ++ S.subst.freeVars := by
-    exact List.not_mem_append h_i_not_in_new_ty h_i_not_in_S_values
+   exact List.not_mem_append h_i_not_in_new_ty h_i_not_in_S_values
```
Comment (atomb) [inline Strata/DL/Lambda/LTyUnify.lean:487]: Similarly, could this be a theorem about `Subst`?

File: Strata/DL/Lambda/LTyUnify.lean [hunk 5]
```diff
@@ -740,17 +798,12 @@ theorem Subst.freeVars_subset_prop_of_single_constraint
...
-  case right =>
-    simp_all [Constraint.freeVars, LMonoTy.freeVars]
-    generalize (LMonoTy.subst S.subst orig_lty).freeVars = B at *
-    have : B ++ S.subst.freeVars ⊆ orig_lty.freeVars ++ S.subst.freeVars := by
-      simp_all
-    exact List.subset_cons_of_subset id fun _ x => this (h_subset x)
+  have h_freevars := @Subst.freeVars_of_insert (apply [(id, LMonoTy.subst S.subst orig_lty)] S.subst)
+                      id (LMonoTy.subst S.subst orig_lty)
+  simp [Constraint.freeVars, LMonoTy.freeVars]
+  apply List.subset_cons_of_subset id
```
Comment (atomb) [inline Strata/DL/Lambda/LTyUnify.lean:825]: Could this be a `Subst` theorem instead of a `List` one?

File: Strata/DL/Lambda/LTyUnify.lean (hunk 1 above)
Comment (shigoel) [reply Strata/DL/Lambda/LTyUnify.lean]: Renamed to `Subst.empty`.

File: Strata/DL/Lambda/LTyUnify.lean (hunk 2 above)
Comment (shigoel) [reply Strata/DL/Lambda/LTyUnify.lean]: Renamed to `Subst.emptyScope`.

File: Strata/DL/Lambda/LTyUnify.lean (hunk 3 above)
Comment (shigoel) [reply Strata/DL/Lambda/LTyUnify.lean:440]: This (and the other two comments in the same vein) belong in a different PR, I think. These lemmas aren't really about `Subst`, but about `freeVars` of `LMonoTy`, `LMonoTys`, `Constraint`, `Constraints`, `SubstOne`, and `Subst`. They all have the type `List TyIdentifier` and are tightly intertwined. 

But indeed, there's an opportunity and need to generalize the notion of `freeVars` here. And when we do that, we should make sure that our notion of free variables can capture expression free variables too (e.g., `LExpr.freeVars`, which is of type `List Identifier`).

**Review by atomb — APPROVED** [review]

**Review by andrewmwells-amazon — APPROVED** [review]
